US08404681B2
6-Hydroxy-8-morpholin-4-yl-10H-benzo[b][1,8]naphthyridin-5-one
5-Morpholin-4-yl-benzene-1,3-diol (345 mg 1.77 mmol), TsOH.H2O (30 mg, 0.20 mmol), and 2-aminonicotinic acid methyl ester (269 mg, 1.77 mmol) were heated at 160° C. in hexanol (5 mL) for 12 hours. Upon cooling, the mixture was purified via flash chromatography CH2Cl2/MeOH (95:5), followed by a second flash column eluting with Et2OAc/hexanes (7:3) to provide 11 mg (2%) of the product. 1H NMR (CDCl3, 400 MHz) δ: 13.5 (s, 1H), 8.80 (br s, 1H), 8.62 (d, 1H), 7.25 (dd, 1H), 6.22 (d, 1H), 6.04 (s, 1H), 5:97 (s, 1H), 3.86-3.83 (m, 4H), 3.40-3.35 (m, 4H). LRMS (APCI, positive): Da/e 296.4 (m−1).

reactant | 5-Morpholin-4-yl-benzene-1,3-diol | 1.77 mmol, 345 mg | N1(CCOCC1)C=1C=C(C=C(C1)O)O | C10H13NO3
reactant | TsOH.H2O | 0.20 mmol, 30 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
reactant | 2-aminonicotinic acid methyl ester | 1.77 mmol, 269 mg | COC(C1=C(N=CC=C1)N)=O | C7H8N2O2
solvent | hexanol | 5 mL | C(CCCCC)O | C6H14O
product | 6-Hydroxy-8-morpholin-4-yl-10H-benzo[b][1,8]naphthyridin-5-one | 11 mg, 2% | OC1=CC(=CC=2NC=3N=CC=CC3C(C21)=O)N2CCOCC2 | C16H15N3O3
